US05843942
Methyl iodide (2.7 g) was added to a stirred suspension of ethyl 4-[N-(2-benzyloxy-5-bromobenzyl)amino]-3-hydroxybenzoate (6 g) and potassium carbonate (2.6 g) in N,N-dimethylformamide (50 mL) and stirring was continued for 3 hours. The reaction mixture was poured into water (200 mL) and this was extracted three times with diethyl ether (50 mL each time). The combined diethyl ether extracts were washed three times with water (50 mL each time) and dried (MgSO4). The residue obtained on evaporation of the solvent was triturated with petroleum-ether (bp 60-80° C.) to give ethyl 4-[N-(2-benzyloxy-5-bromobenzyl)amino]-3-methoxybenzoate, yield 5.3 g, mp 78° C.

reactant | Methyl iodide | 2.7 g | CI | CH3I
reactant | ethyl 4-[N-(2-benzyloxy-5-bromobenzyl)amino]-3-hydroxybenzoate | 6 g | C(C1=CC=CC=C1)OC1=C(CNC2=C(C=C(C(=O)OCC)C=C2)O)C=C(C=C1)Br | C23H22BrNO4
reactant | potassium carbonate | 2.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 mL | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ethyl 4-[N-(2-benzyloxy-5-bromobenzyl)amino]-3-methoxybenzoate | C(C1=CC=CC=C1)OC1=C(CNC2=C(C=C(C(=O)OCC)C=C2)OC)C=C(C=C1)Br | C24H24BrNO4
